US04279639
Synthesis of N-(2-methoxy-4-pyridyl)-N'-phenylthiourea
203 mg (1.5 mmol) of phenyl isothiocyanate was added to a solution of 186 mg (1.5 mmol) of 2-methoxy-4-aminopyridine in 15 ml of dry acetone. The mixture was then refluxed for 33 hrs. After cooling, solvent was evaporated off by distillation and the residue was chromatographed in a conventional manner using silica gel (solvent, CHCl3 :acetone=10:1 volume). Fractions were collected and solvent removed by distillation. The residue was recrystallized from ether to give the desired product having a melting point of 138°-141° C. in an amount of 130 mg (yield 33.4%).

reactant | phenyl isothiocyanate | 1.5 mmol, 203 mg | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 2-methoxy-4-aminopyridine | 1.5 mmol, 186 mg | COC1=NC=CC(=C1)N | C6H8N2O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | N-(2-methoxy-4-pyridyl)-N'-phenylthiourea | yield 33.4% | COC1=NC=CC(=C1)NC(=S)NC1=CC=CC=C1 | C13H13N3OS
